US04619813
Referring to FIG. 1, wood chips are heated with a magnesium bisulphite cooking acid (C/A) in digesters 10 and the pulp and spent sulphite liquor are discharged into washers 12. The liquor is passed through a filter and the filtrate having 13-15% solids is fed to a weak liquor storage tank 16. Some of the weak liquor is recycled to the washers. The weak liquor is concentrated in an evaporator 18 and transferred to a heavy liquor storage tank 20 at a concentration between 55-57% solids as required for operation of the recovery system. The heavy liquor is fired in a recovery boiler 22 and the combustion products of the sulphur and magnesium in the liquor are discharged from the boiler in a gas stream as sulphur dioxide and solid particles of magnesium oxide ash. The major portion of the magnesium oxide is removed from the gas stream in a precipitator 24 and washed in a washer 26. The magnesium oxide from the washer is fed to slakers 28 to produce magnesium hydroxide which is stored in a slurry tank 30. This magnesium hydroxide slurry together with some makeup is fed to a scrubber 32. The sulphur dioxide from the precipitator 24 is forced to flow upwardly through the scrubber 32 by an induced draft fan 34, countercurrent to the magnesium hydroxide flow, so as to recover the sulphur dioxide by reaction with the magnesium hydroxide to produce magnesium bisulphite acid. This acid is fed to a conventional clarifier 36 and then to a fortification tower 38 where it is fortified with makeup sulphur dioxide coming from a sulphur burner 40 through coolers 42. Some SO2 makeup is also fed to the scrubber through the fortification tower. The finished cooking acid is fed through filters 44 and stored in a cooking acid storage tank 46 for reuse in the digesters 10.

reactant | magnesium hydroxide slurry | [OH-].[OH-].[Mg+2]
reactant | sulphur dioxide | S(=O)=O | O2S
reactant | magnesium hydroxide | [OH-].[Mg+2].[OH-]
product | magnesium bisulphite | S([O-])(O)=O.[Mg+2].S([O-])(O)=O | InChI=1S/Mg.2H2O3S/c;2*1-4(2)3/h;2*(H2,1,2,3)/q+2;;/p-2
